// Generated for: spectre
// Generated on: Apr 24 09:05:46 2015
// Design library name: 16nm_Tests
// Design cell name: levelconverter
// Design view name: schematic
simulator lang=spectre
global 0 vdd! vcc!
parameters vcc=.500 vdd=.850
include "/root/Desktop/Cadence/ncsu-FreePDK15/hspice_16nm_hp.include"

// Library name: 16nm_Tests
// Cell name: levelconverter
// View name: schematic
V0 (vcc! 0) vsource type=dc dc=vcc
V1 (vdd! 0) vsource type=dc dc=vdd
M6 (Y net012 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
M4 (net38 net25 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
M2 (net25 X 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
M0 (net012 X 0 0) nfet w=60n l=20n nfin=1 m=1 degradation=no
V2 (X 0) vsource type=pwl wave=[ 0 0 2n vdd ]
M7 (Y net012 vdd! vdd!) pfet w=100n l=20n nfin=1 m=1 degradation=no
M5 (net38 net012 vdd! vdd!) pfet w=100n l=20n nfin=1 m=1 degradation=no
M3 (net25 X vcc! vcc!) pfet w=100n l=20n nfin=1 m=1 degradation=no
M1 (net012 net38 vdd! vdd!) pfet w=100n l=20n nfin=1 m=1 degradation=no
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
